US08809371B2
Morpholine (50 μl) was added to a tetrahydrofuran solution (1 ml) containing 2-chloro-5-nitro-3-(1H-pyrazol-1-yl)pyridine (30 mg), followed by stirring at room temperature for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, and a yellow solid of 2-morpholino-5-nitro-3-(1H-pyrazol-1-yl)pyridine (37 mg) was thus obtained.

reactant | Morpholine | 50 μl | N1CCOCC1 | C4H9NO
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | 2-chloro-5-nitro-3-(1H-pyrazol-1-yl)pyridine | 30 mg | ClC1=NC=C(C=C1N1N=CC=C1)[N+](=O)[O-] | C8H5ClN4O2
solvent | Water | O | H2O
product | 2-morpholino-5-nitro-3-(1H-pyrazol-1-yl)pyridine | 37 mg | O1CCN(CC1)C1=NC=C(C=C1N1N=CC=C1)[N+](=O)[O-] | C12H13N5O3
